US07323455B2
7-(3-Chloro-4-fluorophenyl)-5-methyl-5-thien-2-yl-1,5-dihydro-4,1-benzoxazepin-2(H)-one
Prepared from 7-bromo-5-methyl-5-thien-2-yl-1,5-dihydro-4,1-benzoxazepin-2(3H)-one and 3-chloro-4-fluorobenzeneboronic acid generally according to the coupling procedure described in example 1. 1H-NMR (DMSO-d6) δ 10.13 (s, 1H), 7.86 (dd, J=6.8, 2.0 Hz, 1H), 7.64 (m, 2H), 7.55 (m, 2H), 7.48 (t, J=8.8 Hz, 1H), 7.25 (d, J=8.3 Hz, 1H), 6.99 (dd, J=4.9, 3.4 Hz, 1H), 6.91 (dd, J=3.4, 1.0 Hz, 1H), 4.16 (d, J=16.1 Hz, 1H), 4.06 (d, J=16.1 Hz, 1H), 2.08 (s, 3H); MS (ES) m/z 388 (M+H)+; Anal. Calc. For C20H15ClFNO2S: C, 61.93; H, 3.90; N, 3.61. Found: C, 61.88; H, 3.99; N, 3.35.

reactant | 7-bromo-5-methyl-5-thien-2-yl-1,5-dihydro-4,1-benzoxazepin-2(3H)-one | BrC=1C=CC2=C(C(OCC(N2)=O)(C=2SC=CC2)C)C1 | C14H12BrNO2S
reactant | 3-chloro-4-fluorobenzeneboronic acid | ClC=1C=C(C=CC1F)B(O)O | C6H5BClFO2
product | 7-(3-Chloro-4-fluorophenyl)-5-methyl-5-thien-2-yl-1,5-dihydro-4,1-benzoxazepin-2(H)-one | CC1(C2=C(C=CC(=C2)C3=CC(=C(C=C3)F)Cl)NC(=O)CO1)C4=CC=CS4 | C20H15ClFNO2S
